Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]([C:2]([H:3])[C:11]([H:12])([H:13])[O:14][H:15])([H:4])([H:6])[H:10].[C:5]=[C:7]([H:8])[H:9]>>[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.14148369391
[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[H:4],3.7138865290300007
[C:6]([H:7])[H:8].[H:1][O:2][C:3]([C:4]=[O:5])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([C:4][O:5][C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-2.41000916676
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:7]#[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],5.23461017031
[C:14]([H:15])[H:16].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-5.20819415872
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.7820401559500003
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-3.80679376814
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],-5.36385012139
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.51870403241
[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.63947472809
[O:1]=[C:2][C:7]([H:8])([H:9])[H:10].[O:3][C:4]#[C:5][H:6]>>[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.59575993946
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.1335084829
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6],3.65471334591
[C:1]#[C:2][C:3]([H:4])[O:6][C:7]([H:8])([H:9])[H:10].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-1.81635673784
[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.28327892307
[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.92691762128
[C:1]#[C:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:5],3.63600199706
[H:10].[H:1][C:2]([H:3])=[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],-2.80851148774
[H:10].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.59999681615
[C:1]=[C:2]([O:4][C:5]=[O:6])[C:7]([H:8])([H:9])[H:10].[H:3]>>[C:1][C@:2]([H:3])([O:4][C:5]=[O:6])[C:7]([H:8])([H:9])[H:10],-2.13228376981
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-5.97054677487
[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C@@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],1.85228120373
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1],3.5572060509900005
[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:6][H:7],3.52512554155
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6])[C:10]([H:11])([H:12])[H:13],5.13484917828
[H:1][C:2]=[C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:3](#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2],4.35669222107
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([H:3])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.65477739694
[H:1][C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20].[H:4][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],-4.04341653506
